US07129238B2
(RS)-(2-Fluoro-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-phenyl)-2-methoxy-acetamide. Colorless oil. MS 299.2 ([M+H]+)

reactant | (RS)-(2-Fluoro-phenyl)-methoxy-acetic acid | FC1=C(C=CC=C1)C(C(=O)O)OC | C9H9FO3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=CC=C2)F)=O)C=C1 | C17H15FN2O2
